US09328067B2
methyl 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]propanoate
To a solution of methyl 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoate (173 mg, 0.39 mmol) in CH2Cl2 (5 ml) was added mCPBA (142 mg, ˜0.59 mmol). The reaction was stirred at room temperature for 1 hour, and was directly loaded on Celite, purified by flash column chromatography on silica gel (30-70% EtOAc in hexane) to yield the title compound (40 mg, 22%).

reactant | methyl 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoate | 0.39 mmol, 173 mg | ClC1=CC(=C(C=C1)SCCC(=O)OC)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C16H14Cl2FNO4S2
reactant | mCPBA | ˜0.59 mmol, 142 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | methyl 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]propanoate | 40 mg, 22% | ClC1=CC(=C(C=C1)S(=O)CCC(=O)OC)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C16H14Cl2FNO5S2
